US04298529
To a solution of ethyl 2-hydroxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer, 0.5 g) in dried acetone (5 ml) was added potassium carbonate (0.29 g), and then dimethyl sulfate (0.265 g) was added dropwise thereto at ambient temperature with stirring. The mixture was stirred for 7 hours at ambient temperature and then filtered. The filtrate was evaporated to give ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer).

reactant | ethyl 2-hydroxyimino-3,3-ethylenedioxy-4-chlorobutyrate | 0.5 g | ON=C(C(=O)OCC)C1(CCl)OCCO1 | C8H12ClNO5
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.265 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate | CON=C(C(=O)OCC)C1(CCl)OCCO1 | C9H14ClNO5
